US09359340B2
LiOH—H2O (168 mg, 4.00 mmol) was added to a stirring solution of THF (30 mL) and water (15 mL) at room temperature until it was dissolved. The mixture was treated with hydrogen peroxide (658 uL of a 35% wt. solution in water, 8.00 mmol) and allowed to stir at room temperature for 10 minutes. The reaction was cooled to 0° C. in an ice bath, and the tert-butyl (S)-3-((S)-4-benzyl-2-oxooxazolidin-3-yl)-2-(4-chlorophenyl)-3-oxopropyl(isopropyl)carbamate (1.00 g, 2.00 mmol) was added dropwise via addition funnel as a solution in THF (15 mL) over a 10 minutes. The mixture was allowed to stir overnight at room temperature to completion by LCMS analysis of the crude. The reaction was cooled to 0° C., and then treated with 1M Na2SO3 (9.00 mL) solution via addition funnel over a ten minute period. After the addition was complete, the mixture was allowed to warm to room temperature for 10 minutes. The mixture was concentrated to remove the THF, and then diluted with water. The aqueous layer was washed twice with ethyl acetate (discarded). The aqueous layer was partitioned with ethyl acetate, then treated dropwise while stirring with 1M HCl until pH 2-3 was attained. The aqueous layer was extracted twice with ethyl acetate, and the organics were combined. The organic was washed with brine, separated, dried over MgSO4, filtered, and concentrated in vacuo. The colorless oil product was dried under high vacuum for one hour to afford (S)-3-(tert-butoxycarbonykisopropyl)amino)-2-(4-chlorophenyl)propanoic acid as a viscous oil/foam (685 mg, 100%). LC/MS (APCI+) m/z 242.1 [M−Boc]+.

reactant | LiOH—H2O | 4.00 mmol, 168 mg | O[Li].O
reactant | hydrogen peroxide | OO | H2O2
reactant | tert-butyl (S)-3-((S)-4-benzyl-2-oxooxazolidin-3-yl)-2-(4-chlorophenyl)-3-oxopropyl(isopropyl)carbamate | 2.00 mmol, 1.00 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H](CN(C(OC(C)(C)C)=O)C(C)C)C1=CC=C(C=C1)Cl)=O | C27H33ClN2O5
reactant | Na2SO3 | 1M, 9.00 mL | [O-]S(=O)[O-].[Na+].[Na+]
solvent | water | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | 15 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(4-chlorophenyl)propanoic acid | 685 mg, 100% | ClC1=CC=C(C=C1)C(C(=O)O)C | C9H9ClO2
